US09422331B2
To a rt solution of tert-butyl(S)-1-((2S,3S)-1-acetyl-8-cyano-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (53 mg, 120 μmol) in DMF (299 μl) was added 1-(chloromethyl)-2-methoxynaphthalene (29.6 mg, 143 μmol), cesium carbonate (50.6 mg, 155 μmol), and sodium iodide (23.3 mg, 155 μmol). The reaction was stirred at rt for 1 h, then diluted with EtOAc, washed with H2O and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(S)-1-((3S,4S)-5-acetyl-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (60 mg, 82%) as a white solid. MS m/z 636 (MNa)+.

reactant | tert-butyl(S)-1-((2S,3S)-1-acetyl-8-cyano-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 120 μmol, 53 mg | C(C)(=O)N1C2=C(NC([C@H]([C@@H]1C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)C=CC(=C2)C#N | C22H29N5O5
reactant | 1-(chloromethyl)-2-methoxynaphthalene | 143 μmol, 29.6 mg | ClCC1=C(C=CC2=CC=CC=C12)OC | C12H11ClO
reactant | cesium carbonate | 155 μmol, 50.6 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | 155 μmol, 23.3 mg | [I-].[Na+]
solvent | DMF | 299 μl | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl(S)-1-((3S,4S)-5-acetyl-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 60 mg, 82% | C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)CC1=C(C=CC3=CC=CC=C13)OC)C=CC(=C2)C#N | C34H39N5O6
